US08754101B2
Intermediate 10: trans-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutanamine
1,1-dimethylethyl(trans-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutyl)carbamate (257 mg, 0.723 mmol) was stirred in 4M HCl in dioxane (5 mL, 20 mmol) overnight and then concentrated in vacuo and loaded onto an SCX cartridge (10 g) and eluted with MeOH (3 column volumes) and then flushed with ammonia in MeOH. Concentration of the product containing fractions in vacuo gave the title compound (142.3 mg).

reactant | 1,1-dimethylethyl(trans-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutyl)carbamate | 0.723 mmol, 257 mg | CC(C)(C)N(C([O-])=O)[C@@H]1C[C@H](C1)OC1=CC(=C(C(=C1)F)C(C)(C)C)F
reactant | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | trans-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutanamine | 142.3 mg | CC(C)(C)C1=C(C=C(C=C1F)O[C@@H]1C[C@H](C1)N)F | C14H19F2NO
